US04366323
Preparation of 4-dimethylsilylphenoxydimethylsilane
To a three-necked 2-1 flask containing 37.0 g (1.52 mol) of magnesium, 94.0 g (1 mol) of dimethylchlorosilane and 100 ml of freshly-distilled tetrahydrofuran was added slowly and under nitrogen a solution of 328.0 g (1.42 mol) of 4-bromophenoxydimethylsilane and 94.0 g (1 mol) of dimethylchlorosilane. During the addition, the reaction temperature was kept at 40°-50° C. After the addition was complete, the reaction mixture was refluxed and part of the tetrahydrofuran was removed by distillation. After cooling, the inorganic salt was precipitated by petroleum ether (b.p. 30°-60° C.) and filtered. The filtrate was concentrated on a rotary evaporator and then vacuum distilled. The expected compound (234.0 g, 78.5%) distilled at 85°-95° C./3.5 mm.

reactant | magnesium | 1.52 mol, 37.0 g | [Mg] | Mg
reactant | dimethylchlorosilane | 1 mol, 94.0 g | C[SiH](Cl)C | C2H7ClSi
reactant | 4-bromophenoxydimethylsilane | 1.42 mol, 328.0 g | BrC1=CC=C(O[SiH](C)C)C=C1 | C8H11BrOSi
reactant | dimethylchlorosilane | 1 mol, 94.0 g | C[SiH](Cl)C | C2H7ClSi
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-dimethylsilylphenoxydimethylsilane | C[SiH](C1=CC=C(O[SiH](C)C)C=C1)C | C10H18OSi2
